US04174458
7-Benzyloxy-3-oxoheptanal
0.135 mole=44 g of 7-benzyloxy-1-(2,5-dithiapentyl)-heptane-3-one were heated for 1 hour under nitrogen and under reflux in 1 liter of acetone with [0.275 mole]=47 g of CuCl2 . 2 H2O and [0.57 mole]=44 g of CuO, the copper salts were filtered off and the filtrate was concentrated under reduced pressure. The residue was dissolved in ether, washed twice with 2N- HCl and thrice with water, dried and the solvent was removed by distillation under reduced pressure. The residue was distilled under reduced pressure. B.p.0.5 mm 185°-192° C.

reactant | 7-benzyloxy-1-(2,5-dithiapentyl)-heptane-3-one | 44 g | C(C1=CC=CC=C1)OCCCCC(CCCSCCS)=O | C17H26O2S2
reactant | acetone | 1 liter | CC(=O)C | C3H6O
product | 7-Benzyloxy-3-oxoheptanal | C(C1=CC=CC=C1)OCCCCC(CC=O)=O | C14H18O3
